US08802864B2
b) 5-{[(3S)-1-(2,2-dimethylpropanoyl)-3-pyrrolidinyl]methyl}-4-[4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 4-(4-bromophenyl)-5-{[(3S)-1-(2,2-dimethylpropanoyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.277 mmol) in dioxane (2 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.294 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (20 mg), and 2M aq potassium carbonate (1 mL). The reaction mixture was purged with nitrogen, sealed, and stirred at 110° C. for 1 h. The reaction mixture was cooled to room temperature, diluted with water, neutralized with the dropwise addition of 6N aq HCl, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by reverse phase HPLC (10-70% acetonitrile/water+0.1% NH4OH) and then reverse phase HPLC (10-40% acetonitrile w/0.1% TFA/water w/0.1% TFA). The combined product fractions were concentrated in vacuo for 30 min to remove the acetonitrile. The aqueous solution was neutralized with the addition of saturated aqueous sodium bicarbonate and extracted with dichloromethane (2×). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (49 mg, 38% yield). MS(ES)+ m/e 456.0 [M+H]+.

reactant | 4-(4-bromophenyl)-5-{[(3S)-1-(2,2-dimethylpropanoyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.277 mmol | BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(C(C)(C)C)=O)=O | C18H23BrN4O2
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.294 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 2M, 1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-(2,2-dimethylpropanoyl)-3-pyrrolidinyl]methyl}-4-[4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 49 mg, 38% yield | CC(C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=C2C=CC=NC2=C1)(C)C | C27H29N5O2
